US09402841B2
Step E: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-8-methoxyisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To a mixture of (S)-3-(8-methoxy-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride (120 mg, 0.33 mmol) in DCM (8 mL) was added 2,6-dimethylpyridine (106 mg, 0.99 mmol). The resulting mixture was cooled to −78° C. Acryloyl chloride (120 mg, 1.20 mmol, 10 mg/mL in dry DCM) was added dropwise and the reaction mixture was stirred at −78° C. for 1.5 hours. The reaction was quenched with MeOH (5 mL) and the mixture was concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (34 mg, 27%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.81 (s, 1H), 11.69 (s, 1H), 7.85 (dd, J=7.1, 14.5 Hz, 1H), 7.57-7.51 (m, 1H), 7.43 (d, J=3.3 Hz, 1H), 7.36 (d, J=8.0 Hz, 1H), 7.02 (d, J=8.0 Hz, 1H), 6.72-6.54 (m, 1H), 6.16 (m, 1H), 5.73-5.61 (m, 1H), 5.21-5.03 (m, 1H), 4.16 (m, 1H), 4.04-3.89 (m, 3H), 3.79 (m, 1H), 3.71-3.61 (m, 1H), 3.44 (m, 1H), 3.24 (m, 1H), 2.42-2.21 (m, 1H), 2.09-1.90 (m, 1H); ESI-MS m/z [M+H]+ 381.

reactant | (S)-3-(8-methoxy-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride | 0.33 mmol, 120 mg | Cl.COC=1C=CC=C2C=C(N=C(C12)N[C@@H]1CNCC1)C1=NNC(N1)=O
reactant | 2,6-dimethylpyridine | 0.99 mmol, 106 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | Acryloyl chloride | 1.20 mmol, 120 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-8-methoxyisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 34 mg, 27% | C(C=C)(=O)N1C[C@H](CC1)NC1=NC(=CC2=CC=CC(=C12)OC)C1=NNC(N1)=O | C19H20N6O3
